US05194664
2-(4-Carbomethoxyphenyl)-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanone
A solution of 4 g (16 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride and 4 g (16 mmol) of methyl 4-bromomethylbenzoate in 20 ml of dimethoxyethane was added dropwise to a solution or suspension of 0.56 g of bis(triphenylphosphine)palladium(II) dichloride and 2.1 g of zinc powder in 40 ml of dimethoxyethane at room temperature. The reaction mixture was then refluxed for 6 h. After cooling, solids were filtered off and the filtrate was heated with active carbon and filtered hot. The filtrate was concentrated and yielded after recrystallization 3× from methanol and finally from isopropanol 0.9 g of the title compound of melting point 103°-104° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride | 16 mmol, 4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
reactant | methyl 4-bromomethylbenzoate | 16 mmol, 4 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.56 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | zinc | 2.1 g | [Zn] | Zn
product | 2-(4-Carbomethoxyphenyl)-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanone | C(=O)(OC)C1=CC=C(C=C1)CC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H28O3
